US05703110
Methyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-(2,2,2-trifluoroethoxy)benzimidazole-7-carboxylate
The title compound was prepared as pale yellow crystals from methyl 3-amino-2-[[(2'-cyanobiphenyl-4-yl)methyl]amino]benzoate and 2,2,2-trifluoroethyl orthocarbonate according to the procedure for Working Example 3. Yield: 25%, m.p. 143°-145° C.

reactant | methyl 3-amino-2-[[(2'-cyanobiphenyl-4-yl)methyl]amino]benzoate | NC=1C(=C(C(=O)OC)C=CC1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C22H19N3O2
reactant | 2,2,2-trifluoroethyl orthocarbonate | C(OCC(F)(F)F)([O-])([O-])[O-]
product | Methyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-(2,2,2-trifluoroethoxy)benzimidazole-7-carboxylate | Yield: 25% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OC)OCC(F)(F)F | C25H18F3N3O3
